US07402595B2
2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-4-phenyl-3-(piperidine-1-carbonyl)-2H-isoquinolin-1-one
The present compound was synthesized by a method similar to that in Example 249 and using 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (200 mg) and piperidine. Colorless crystals (150 mg).

reactant | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 200 mg | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2C(=O)O)C2=CC=CC=C2)Br)=O | C24H16BrNO5
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-4-phenyl-3-(piperidine-1-carbonyl)-2H-isoquinolin-1-one | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2C(=O)N2CCCCC2)C2=CC=CC=C2)Br)=O | C29H25BrN2O4
